US07592358B2
24.1e. 5-(4-chlorophenyl)-2-[3-ethyl-4-(2-pyrrolidin-1-ylethoxy)phenylethynyl]pyridine
The product was obtained analogously to Example 7.1e starting from 1-[2-(4-iodo-2-ethylphenoxy)ethyl]pyrrolidine and 5-(4-chlorophenyl)-2-ethynylpyridine. Yield: 44 mg (12% of theoretical); C27H27ClN2O (M=430.969); calc.: molpeak (M+H)+: 431/433 (Cl); found: molpeak (M+H)+: 431/433 (Cl); HPLC-MS: 5.74 minutes (method A).

reactant | 1-[2-(4-iodo-2-ethylphenoxy)ethyl]pyrrolidine | IC1=CC(=C(OCCN2CCCC2)C=C1)CC | C14H20INO
reactant | 5-(4-chlorophenyl)-2-ethynylpyridine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#C | C13H8ClN
product | 5-(4-chlorophenyl)-2-[3-ethyl-4-(2-pyrrolidin-1-ylethoxy)phenylethynyl]pyridine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC1=CC(=C(C=C1)OCCN1CCCC1)CC | C27H27ClN2O
